US06043254
1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone
Yield: about 67% of theory, the product contains about 25 to 34% of 1-acetyl-2-indolinone. Melting point: 123-129° C. (with an amount of 34% of 1-acetyl-2-indolinone). An insoluble fraction is isolated from the above mixture by combining with ethylacetate, extracting with dilute aqueous sodium carbonate solution and with water and by filtering, this fraction being the pure product. Melting point: 187-189° C.; C19H17NO3 ; Calc.: C, 74.25; H, 5.57; N, 4.56; Found: 73.95; 5.57; 4.53.

reactant | 1-acetyl-2-indolinone | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
